US03939202
To a suspension of sodium hydride (2.64 g) in ether (70 ml), a solution of ethyl 3,7,11-trimethyl-6,10-dodecadien-2-one-1-carboxylate (14.7 g) in ether (15 ml) is dropwise added, and then a solution of 1-bromo-8-acetoxy-2,6-dimethyl-2,6-octadiene (15 g) in ether (15 ml) is dropwise added thereto while cooling with ice. The reaction mixture is poured into ice water. The ether layer is washed with water, dried and evaporated. The residue (24.8 g) is added to a solution of potassium hydroxide (8.4 g) in ethanol (150 ml), and the resultant mixture is poured into water, followed by washing with petroleum ether, acidifying with 5% aqueous solution of sulfuric acid and extracting with ether. The ether layer is washed with water, dried and evaporated. The resulting product (23.5 g) is purified by chromatography on silica gel (235 g) using benzene to give 3,7,11,15,19-pentamethyl-2,6,14,18-eicosatetraen-10-on-1-ol (18 g). IR: 3400, 1000 cm-1 (OH): 1705 cm-1 (C=O); 1668 cm-1 (C=C). NMR (carbon tetrachloride): δ 1.04 (d), 1.59 (s), 1.66 (s), 2.01 (m), 2.7 (m), 4.1 (m), 5.05 (m).

reactant | sodium hydride | 2.64 g | [H-].[Na+]
reactant | ethyl 3,7,11-trimethyl-6,10-dodecadien-2-one-1-carboxylate | 14.7 g | CC(C(CC(=O)OCC)=O)CCC=C(CCC=C(C)C)C | C18H30O3
reactant | 1-bromo-8-acetoxy-2,6-dimethyl-2,6-octadiene | 15 g | BrCC(=CCCC(=CCOC(C)=O)C)C | C12H19BrO2
solvent | ether | 70 ml | CCOCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
product | 3,7,11,15,19-pentamethyl-2,6,14,18-eicosatetraen-10-on-1-ol | 18 g | CC(=CCO)CCC=C(CCC(C(CCC=C(CCC=C(C)C)C)C)=O)C | C25H42O2
